US08242133B2
To a mixture of 1.77 g of 2-amino-4-(trifluoromethyl)phenol, 1.58 g of 3-chloroisonicotinic acid and 15 ml of pyridine, 2.70 g of WSC was added and stirred while heating at 60° C. for four hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was washed with a mixture solvent of tert-butyl methyl ether and hexane to give 1.80 g of 3-chloro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide.

reactant | 2-amino-4-(trifluoromethyl)phenol | 1.77 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
reactant | 3-chloroisonicotinic acid | 1.58 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | WSC | 2.70 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 1.80 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN=C1 | C13H8ClF3N2O2
